US07692015B2
To a stirred solution of sodium ethoxide (23.8 g) in ethanol (anhydrous, 400 ml) is added toluene-4-sulfonamide (60 g) around 50 C. The formed slurry is heated up to reflux for 2 hours and then cooled to 20° C. The precipitated solid is collected by filtration, rinsed with anhydrous ethanol and dried under vacuum with nitrogen flow to give toluene-4-sulfonamide monosodium salt (61.3 g, yield: 90.6%).

reactant | sodium ethoxide | 23.8 g | [O-]CC.[Na+]
reactant | toluene-4-sulfonamide | 60 g | C1(=CC=C(C=C1)S(=O)(=O)N)C | C7H9NO2S
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | toluene-4-sulfonamide monosodium salt | 61.3 g, yield: 90.6% | [Na+].C1(=CC=C(C=C1)S(=O)(=O)[NH-])C | InChI=1S/C7H8NO2S.Na/c1-6-2-4-7(5-3-6)11(8,9)10;/h2-5H,1H3,(H-,8,9,10);/q-1;+1
